US09029295B2
To a solution of 4-(2,6-diethyl-4-methylphenyl)-6-hydroxymethyl-5-(4-methylphenylsulfonyl)-2-methyl-3(2H)-pyridazinone (2.40 g, 5.45 mmol) and diisopropylethylamine (10 ml, 57.4 mmol) in THF (20 ml) was added chloromethyl methyl ether (2.4 ml, 31.6 mmol), and refluxed for 4 hours. After the reaction solution was cooled to room temperature, to the reaction solution was added saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate 2 times. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give 2.11 g of 4-(2,6-diethyl-4-methylphenyl)-6-methoxymethoxymethyl-5-(4-methylphenylsulfonyl)-2-methyl-3(2H)-pyridazinone (yield: 80%) as solid.

reactant | 4-(2,6-diethyl-4-methylphenyl)-6-hydroxymethyl-5-(4-methylphenylsulfonyl)-2-methyl-3(2H)-pyridazinone | 5.45 mmol, 2.40 g | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1S(=O)(=O)C1=CC=C(C=C1)C)CO)C)=O | C24H28N2O4S
reactant | diisopropylethylamine | 57.4 mmol, 10 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 31.6 mmol, 2.4 ml | COCCl | C2H5ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(2,6-diethyl-4-methylphenyl)-6-methoxymethoxymethyl-5-(4-methylphenylsulfonyl)-2-methyl-3(2H)-pyridazinone | 2.11 g, yield: 80% | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1S(=O)(=O)C1=CC=C(C=C1)C)COCOC)C)=O | C26H32N2O5S
